US06492378B1
N-(3,3-Dimethyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide
To a stirred solution of N-(3,3-dimethyl-1,2,3,4-tetrahydro-2-trifluoroacetylisoquinolin-7-yl)-4-methoxy-3-trifluoromethyl benzamide (442 mg; 0.93 mmol) in methanol (50 ml) and water (25 ml) was added potassium carbonate (642 mg; 4.65 mmol) and the resultant mixture heated under reflux for I h. Evaporation in vacuo gave a residue which was partitioned between dichloromethane and water. The organic phase was dried over sodium sulfate, and evaporation in vacuo gave the title compound (303 mg).

reactant | N-(3,3-dimethyl-1,2,3,4-tetrahydro-2-trifluoroacetylisoquinolin-7-yl)-4-methoxy-3-trifluoromethyl benzamide | 0.93 mmol, 442 mg | CC1(N(CC2=CC(=CC=C2C1)NC(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C(C(F)(F)F)=O)C | C22H20F6N2O3
reactant | potassium carbonate | 4.65 mmol, 642 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 25 ml | O | H2O
product | N-(3,3-Dimethyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide | 303 mg | CC1(NCC2=CC(=CC=C2C1)NC(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C20H21F3N2O2
